* NGSPICE file created from tff.ext - technology: ihp-sg13cmos5l

.subckt tff VGND VPWR clk_in clk_out rst_n
XFILLER_7_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_158 VPWR VGND sg13cmos5l_decap_4
XFILLER_12_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_2_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_6_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_137 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_67 VPWR VGND sg13cmos5l_fill_2
XFILLER_18_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_16_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_116 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_162 VPWR VGND sg13cmos5l_decap_4
XFILLER_5_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_4_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_141 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_19_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_120 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_81 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_10_109 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_60 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_155 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_18_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_134 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_95 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_7_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_113 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_74 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_4_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_13_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_53 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_148 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_1_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_32 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_7_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_127 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_11 VPWR VGND sg13cmos5l_decap_8
Xinput1 input1/X rst_n VPWR VGND sg13cmos5l_buf_1
XFILLER_10_88 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_15_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_106 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_4_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_67 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_13_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_46 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_25 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_18_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_11_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_8_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_81 VPWR VGND sg13cmos5l_fill_1
XFILLER_8_92 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_14_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_39 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_18 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_147 VPWR VGND sg13cmos5l_decap_8
X_2_ _2_/Q clk_in _2_/D input1/X VPWR VGND sg13cmos5l_dfrbpq_1
XFILLER_2_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_4_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_1_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_126 VPWR VGND sg13cmos5l_decap_8
X_1_ _2_/D _1_/A VPWR VGND sg13cmos5l_inv_1
XFILLER_2_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_14_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_85 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_5_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_0_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_2_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_4_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_63 VPWR VGND sg13cmos5l_decap_8
Xhold3 _1_/A _2_/Q VPWR VGND sg13cmos5l_dlygate4sd3_1
XFILLER_0_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_6_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_8_77 VPWR VGND sg13cmos5l_decap_4
XFILLER_8_99 VPWR VGND sg13cmos5l_decap_8
XFILLER_19_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_4 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_5_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_17_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_3_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_17_35 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_7_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_151 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_14 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_8_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_130 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_91 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_11_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_13_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_19_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_49 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_70 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_126 VPWR VGND sg13cmos5l_decap_8
Xoutput2 clk_out _2_/Q VPWR VGND sg13cmos5l_buf_1
XFILLER_3_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_133 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_28 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_0_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_14_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_112 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_126 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_144 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_2_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_63 VPWR VGND sg13cmos5l_decap_4
XFILLER_6_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_3_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_105 VPWR VGND sg13cmos5l_decap_8
XFILLER_10_123 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_7 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_84 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_98 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_16_140 VPWR VGND sg13cmos5l_decap_8
XFILLER_3_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_147 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_154 VPWR VGND sg13cmos5l_decap_8
XFILLER_13_165 VPWR VGND sg13cmos5l_fill_1
XFILLER_10_102 VPWR VGND sg13cmos5l_decap_8
XFILLER_12_42 VPWR VGND sg13cmos5l_decap_8
XFILLER_5_161 VPWR VGND sg13cmos5l_decap_4
XFILLER_3_0 VPWR VGND sg13cmos5l_decap_8
XFILLER_0_56 VPWR VGND sg13cmos5l_decap_8
XFILLER_9_21 VPWR VGND sg13cmos5l_decap_8
XFILLER_18_63 VPWR VGND sg13cmos5l_decap_8
XFILLER_6_77 VPWR VGND sg13cmos5l_decap_8
XFILLER_17_119 VPWR VGND sg13cmos5l_decap_8
XFILLER_15_42 VPWR VGND sg13cmos5l_decap_8
.ends

